US04207419
1-Iodo-4,4-Dimethyl-5-Phenyl-trans-Penten-3-ol
An ice-cold solution of 7.5 g. of 1-iodo-4,4-dimethyl-5-phenyl-trans-1-penten-3-one in 150 ml. of methanol was treated with 0.89 g. of sodium borohydride and stirred at 0° for 11/2 hours. The solvent was evaporated and the residue was dissolved in water and then extracted with ether. The ether was dried and evaporated to afford 7.5 g. of the title product as an oil, λmaxEtOH 3.0, 3.45, 6.23, 6.70, 6.82, 6.90, 7.23, 7.34, 7.87, 8.55, 9.28, 9.71, 10.0, 10.56, 13.04, 13.6 and 14.2μ.

reactant | 1-iodo-4,4-dimethyl-5-phenyl-trans-1-penten-3-one | I\C=C\C(C(CC1=CC=CC=C1)(C)C)=O | C13H15IO
reactant | sodium borohydride | [BH4-].[Na+]
solvent | methanol | CO | CH4O
product | 1-Iodo-4,4-Dimethyl-5-Phenyl-trans-Penten-3-ol | I\C=C\C(C(CC1=CC=CC=C1)(C)C)O | C13H17IO
